US06855824B2
Lithium aluminum hydride (0.569 g, 15 mmol) was placed in a 50 ml volume three-necked flask equipped with a thermometer, a magnetic stirrer and a dropping funnel, and tetrahydrofuran (10 ml) was added as a solvent, followed by replacement of the system with nitrogen. To this solution was added dropwise morpholine (4.18 g, 48 mmol) gradually at room temperature, and after completion of the addition, the mixture was stirred at room temperature for 1 hr. This solution was cooled to 0° C. and a solution obtained by dissolving methyl 4-(4′-fluorophenyl)-2-cyclopropylquinoline-3-carboxylate (3.21 g, 10 mmol) in tetrahydrofuran (9.63 g) was added dropwise to this solution while maintaining the inner temperature to not higher than 0° C. After the completion of the addition, the mixture was stirred for 2 more hours at 10 to 20° C. This reaction mixture was added dropwise to a 15% aqueous sulfuric acid solution (50 ml) while maintaining the inner temperature to not higher than 10° C., and then, toluene (50 ml) was added to the mixture. The organic layer was separated from the mixture and the aqueous layer was extracted with toluene (10 ml). The extract was combined with the organic layer obtained earlier and the mixture was washed with water (30 ml), dried over anhydrous sodium sulfate, then low boiling point components, such as the solvent and the like, were removed under reduced pressure. The obtained residue was purified by column chromatography (eluent: hexane-ethyl acetate mixture) to give 4-(4′-fluorophenyl)-2-cyclopropylquinoline-3-carbaldehyde (2.27 g, yield 77%) as a pale-yellow solid having the following properties.

reactant | Lithium aluminum hydride | 15 mmol, 0.569 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | morpholine | 48 mmol, 4.18 g | N1CCOCC1 | C4H9NO
reactant | methyl 4-(4′-fluorophenyl)-2-cyclopropylquinoline-3-carboxylate | 10 mmol, 3.21 g | FC1=CC=C(C=C1)C1=C(C(=NC2=CC=CC=C12)C1CC1)C(=O)OC | C20H16FNO2
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 9.63 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4′-fluorophenyl)-2-cyclopropylquinoline-3-carbaldehyde | 2.27 g, yield 77% | FC1=CC=C(C=C1)C1=C(C(=NC2=CC=CC=C12)C1CC1)C=O | C19H14FNO
